chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[H:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],28.286795572026453
[Br-:2].[Cl:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21]>>[Br:2][H:3].[C:4](=[C:5]([H:11])[H:21])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[Cl-:1],40.553206210140985
[Cl-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[H:21]>>[Cl:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[H:21].[F-:1],39.76431018537487
[F-:2].[F:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],38.83190205801527
[Br:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([H:11])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[F:2][C@@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([H:11])[C:21]([H:22])([H:23])[H:24],15.653929154243713
[Br-:2].[Br:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[H:21]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[H:21])(\[H:31])[C:41]([H:42])([H:43])[H:44],26.74624599406514
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([H:11])[C:21]#[N:22]>>[Br:2][H:3].[C:4](=[C:5](/[H:11])[C:21]#[N:22])(\[H:31])[N:41]([H:42])[H:43].[Cl-:1],36.95088187315476
[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]#[N:22].[F-:2]>>[C:4](=[C:5]([H:11])[C:21]#[N:22])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[F:2][H:3],14.435935316735971
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22],17.743154032655667
[F-:2].[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24],21.361135600258518
[Br:1][C:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[Br-:1].[H:2][C:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22],25.177836048653283
[F:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[F-:1].[H:2][C@@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24],37.426306778522495
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[Cl-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])(\[C:31]([H:32])([H:33])[H:34])[H:41].[Cl:2][H:3],28.66809297958688
[F-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[N+:21]([O-:22])[O:23]>>[C:4](=[C:5](/[C:11]#[N:12])[N+:21]([O-:22])[O:23])(\[H:31])[C:41]([H:42])([H:43])[H:44].[F-:1].[F:2][H:3],6.541821336104208
[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[F-:2]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[F:2][H:3],16.88035518532531
[F:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],33.68802521861661
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([H:31])[H:41].[Cl-:1].[H:2][H:3],9.22128708320825
[F-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[N+:21]([O-:22])[O:23]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[N+:21]([O-:22])[O:23],11.54684515870686
[Br:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F:2][H:3],7.964084405711754
[F:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[H:21].[H-:2]>>[F-:1].[H:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[H:21],16.853707596480767
[F:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([H:11])[C:21]#[N:22].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([H:11])[C:21]#[N:22],4.883294431792707
